US04452985
[4-(4-Cyanophenyl)-2-Thiazolyl]Guanidine, Hydrobromide
To a solution of 14.5 g. (0.1 mole) of p-acetylbenzonitrile in 250 ml. of methylene chloride is added 16.0 g. (0.1 mole) of bromine. After a few minutes of stirring at room temperature, the solution turns colorless. Stirring is continued an additional 15 minutes. The methylene chloride is removed on a rotary evaporator and 350 ml. of ethanol is added to the residue. To the suspension is added 11.8 g. (0.1 mole) of amidinothiourea. The reaction mixture is heated under reflux for 1 hour, then cooled in ice. The precipitate which forms amounts to 26.9 g. Recrystallization from DMF-EtOH gives 22.4 g. of product with m.p. 293°-295°.

reactant | p-acetylbenzonitrile | 0.1 mole | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | bromine | 0.1 mole | BrBr | Br2
reactant | amidinothiourea | 0.1 mole | C(N)(=N)NC(=S)N | C2H6N4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [4-(4-Cyanophenyl)-2-Thiazolyl]Guanidine, Hydrobromide | Br.C(#N)C1=CC=C(C=C1)C=1N=C(SC1)NC(=N)N | InChI=1S/C11H9N5S.BrH/c12-5-7-1-3-8(4-2-7)9-6-17-11(15-9)16-10(13)14;/h1-4,6H,(H4,13,14,15,16);1H
